US06479608B1
A) 3,3,5-trimethyl-5-pivaloyloxymethylmorpholin-2-one
A solution of 2.63g (0.021 mol) of pivaloyl chloride is added dropwise to a solution of 3.5 g (0.02 mol) of 3,3,5-trimethyl-5-hydroxymethylmorpholin-2-one (prepared in accordance with J. T. Lai.: Synthesis 122 (1984)) and 0.lg of 4-dimethylaminopyridine in 20 ml of dichloromethane at 15° C. After stirring for 16 hours, another 0.75 ml of pivaloyl chloride is added and the reaction mixture is stirred for 24 hours.

reactant | pivaloyl chloride | 0.021 mol, 2.63g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3,3,5-trimethyl-5-hydroxymethylmorpholin-2-one | 0.02 mol, 3.5 g | CC1(NC(COC1=O)(CO)C)C | C8H15NO3
reactant | pivaloyl chloride | 0.75 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,3,5-trimethyl-5-pivaloyloxymethylmorpholin-2-one | CC1(NC(COC1=O)(COC(C(C)(C)C)=O)C)C | C13H23NO4
